US08957070B2
N-{2-[5-(Methoxymethyl)-1,3,4-thiadiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide
A mixture of N-(2-{[2-(methoxyacetyl)hydrazino]carbonyl}-1H-indol-7-yl)-N-methylthiophene-2-sulfonamide (0.29 g), Lawesson's reagent (0.31 g) and tetrahydrofuran (10 mL) was stirred at 50° C. overnight. The reaction mixture was concentrated, and methanol was added to the residue. The resulting crystals were filtrated, washed with methanol, and dried to give the title compound (0.18 g, yield 62%) as pale-yellow crystals. melting point>238° C. (decomposition).

reactant | N-(2-{[2-(methoxyacetyl)hydrazino]carbonyl}-1H-indol-7-yl)-N-methylthiophene-2-sulfonamide | 0.29 g | COCC(=O)NNC(=O)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C | C17H18N4O5S2
reactant | Lawesson's reagent | 0.31 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | N-{2-[5-(Methoxymethyl)-1,3,4-thiadiazol-2-yl]-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide | 0.18 g, yield 62% | COCC1=NN=C(S1)C=1NC2=C(C=CC=C2C1)N(S(=O)(=O)C=1SC=CC1)C | C17H16N4O3S3
